US05169431
3-Amino-6-chloro-2-(2-chloro-2-propenyl)-4-fluorophenol (4.8 g) was dissolved in chloroform (20 ml), and trifluoromethanesulfonic acid (4.6 g)was dropwise added thereto at 5° C. for 5 minutes, followed by stirring at room temperature for 5 hours. After completion of the reaction, the reaction mixture was poured into a 5% NaOH solution (30 ml) at 5° C. and extracted with ethyl acetate. The organic layer was dried and concentrated to give 4-amino-7-chloro-5-fluoro-2-methylbenzo[b]furan (3.5 g; yield, 86%).

reactant | 3-Amino-6-chloro-2-(2-chloro-2-propenyl)-4-fluorophenol | 4.8 g | NC=1C(=C(C(=CC1F)Cl)O)CC(=C)Cl | C9H8Cl2FNO
reactant | trifluoromethanesulfonic acid | 4.6 g | FC(S(=O)(=O)O)(F)F | CHF3O3S
reactant | NaOH | 30 ml | [OH-].[Na+]
solvent | chloroform | 20 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-amino-7-chloro-5-fluoro-2-methylbenzo[b]furan | 3.5 g, 86% | NC1=C(C=C(C=2OC(=CC21)C)Cl)F | C9H7ClFNO
